US09193692B2
F. 3-(4-Bromo-2-fluoro-3-methylphenyl)-4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazole
Methanesulfonic acid (0.090 mL, 1.390 mmol) was added to a stirred solution of 3-(4-bromo-2-fluoro-3-methylphenyl)-1H-1,2,4-triazole (7.0 g, 27.3 mmol) and 3,4-dihydro-2H-pyran (12.68 mL, 139 mmol) in tetrahydrofuran (33 mL). The resulting mixture stirred at 85° C. under a reflux condenser under nitrogen for 20 h. The mixture was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate and brine. The organic layer was dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified using flash chromatography (20-30-50% ethyl acetate in hexane). Product containing fractions were combined and solvent removed under reduced pressure to afford desired product (8.8 g, 95% yield) as a yellow solid. MS (ESI) m/z 340.0 [M]+

reactant | 3-(4-bromo-2-fluoro-3-methylphenyl)-1H-1,2,4-triazole | 27.3 mmol, 7.0 g | BrC1=C(C(=C(C=C1)C1=NNC=N1)F)C | C9H7BrFN3
reactant | 3,4-dihydro-2H-pyran | 139 mmol, 12.68 mL | O1CCCC=C1 | C5H8O
solvent | tetrahydrofuran | 33 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Methanesulfonic acid | 1.390 mmol, 0.090 mL | CS(=O)(=O)O | CH4O3S
product | 3-(4-Bromo-2-fluoro-3-methylphenyl)-4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazole | 8.8 g, 95% yield | BrC1=C(C(=C(C=C1)C1=NN=CN1C1OCCCC1)F)C | C14H15BrFN3O
